US09085555B2
D. (1R,3S,5R)-3-Aminomethyl-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester
(1R,3S,5R)-3-azidomethyl-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester (195 mg, 0.82 mmol) was suspended in THF (10 mL). Air was removed from the flask and replaced with nitrogen three times. Pd/C 10% (20 mg) was added to the solution which was again degassed, placed under a hydrogen atmosphere, and stirred at RT overnight. The catalyst was removed through a 0.45 microns filter, and the filtrate was concentrated in vacuo to give the title compound. MS (LC-MS): 213.0 [M+H]+; tR (HPLC conditions k): 2.51 min. The material thus obtained was used in the next step without further purification.

reactant | (1R,3S,5R)-3-azidomethyl-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester | 0.82 mmol, 195 mg | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1CN=[N+]=[N-] | C11H18N4O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (1R,3S,5R)-3-Aminomethyl-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1CN | C11H20N2O2
